US04233310
155 g of L-histidine and 189 g of sodium hydrogen carbonate were dissolved in 1 liter of water and 124 g of chloroacetyl chloride was added dropwise to the resulting solution with stirring and ice-cooling. After allowing the reaction to proceed for 1 hour, an aqueous solution of sodium thiobenzoate which was prepared from 152 g of thiobenzoic acid and 220 ml of 5 N solution of sodium hydroxide solution, was added dropwise to the resulting solution and was kept standing overnight at room temperature to allow reaction. The resulting reation solution was acidified with hydrochloric acid with ice-cooling to precipitate crystals. The crystals were collected on the filter and washed with water. The product thus obtained weighed 140 g (42 percent of the theoretical amount). Recrystallization from water gave colorless needles, m.p. 176°-177° C.

reactant | L-histidine | 155 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | sodium hydrogen carbonate | 189 g | C(O)([O-])=O.[Na+]
reactant | chloroacetyl chloride | 124 g | ClCC(=O)Cl | C2H2Cl2O
reactant | thiobenzoic acid | 152 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 liter | O | H2O
product | sodium thiobenzoate | C(C1=CC=CC=C1)(=S)[O-].[Na+] | InChI=1S/C7H6OS.Na/c8-7(9)6-4-2-1-3-5-6;/h1-5H,(H,8,9);/q;+1/p-1
